US05688798
A suspension of 0.327 g (0.001 68 mol) of 5-chloromethyl-2-methyl-pyrimidin-4-ylamine in 8 ml of dimethylformamide was treated with 0.7 ml (0.0050 mol) of triethylamine and 0.37 g (0.00168 mol) of 4-benzyloxymethyl-1,2,3,6-tetrahydro-pyridine (contaminated with 30% of 1-benzyl-4-benzyloxymethyl-1,2,3,6-tetrahydro-pyridine) and the mixture was stirred at room temperature under argon for 18 hours. The solvent was distilled off in a high vacuum. The residue was partitioned between dichloromethane/water, extracted and dried over MgSO4. After removing the solvent the residue was chromatographed on silica gel with ethyl acetate as the eluent. 0.19 g (53%) of [5-(4-benzyloxy-methyl-3,6-dihydro-2H-pyridin-1-ylmethyl)-2-methyl-pyrimidin-4-yl]-amine was obtained as a yellow oil. MS (ISP): me/e=325 (C19 H25N4O+).

reactant | 5-chloromethyl-2-methyl-pyrimidin-4-ylamine | 68 mol, 0.327 g | ClCC=1C(=NC(=NC1)C)N | C6H8ClN3
reactant | triethylamine | 0.0050 mol, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | 4-benzyloxymethyl-1,2,3,6-tetrahydro-pyridine | 0.00168 mol, 0.37 g | C(C1=CC=CC=C1)OCC=1CCNCC1 | C13H17NO
reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | [5-(4-benzyloxy-methyl-3,6-dihydro-2H-pyridin-1-ylmethyl)-2-methyl-pyrimidin-4-yl]-amine | 0.19 g, 53% | C(C1=CC=CC=C1)OC=1CCN(CC1)C(C=1C(=NC(=NC1)C)N)C | C19H24N4O
